US08058441B2
(b). 1-Acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
BBr3 (0.69 ml) was added dropwise to a solution of 1-acetyl-6-(2-methoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (0.64 g) in dichloromethane (40 mL). After stirring for 4 h, TLC indicated complete conversion. Water was added to the reaction mixture and stirring was continued for 15 min. The mixture was washed with 5% aq. NaHCO3 and water. The organic layer was dried (MgSO4) and concentrated in vacuo. The resulting product was used without further purification.

reactant | BBr3 | 0.69 ml | B(Br)(Br)Br | BBr3
reactant | 1-acetyl-6-(2-methoxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 0.64 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)OC)=O)(C)C1=CC=CC=C1)(C)C | C28H30N2O3
reactant | Water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 1-Acetyl-6-(2-hydroxybenzoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C=CC=C1)O)=O)(C)C1=CC=CC=C1)(C)C | C27H28N2O3
